US04435418
1-(4-Amino-3-nitrophenyl)-1-phenylethylene (7.7 g., 0.032 mole) was dissolved in refluxing ethanol (450 ml.). To this was added, dropwise, a solution of sodium sulfhydrate (38.5 g., 0.45 mole) in water (110 ml.). The resulting solution was refluxed overnight. The solution was diluted with water (1 l.), cooled, and filtered yielding 1-(3,4-diaminophenyl)-1-phenylethylene: 5.6 g., 83% yield, m.p. 109°-110°.

reactant | 1-(4-Amino-3-nitrophenyl)-1-phenylethylene | 0.032 mole, 7.7 g | NC1=C(C=C(C=C1)C(=C)C1=CC=CC=C1)[N+](=O)[O-] | C14H12N2O2
reactant | ethanol | 450 ml | C(C)O | C2H6O
reactant | sodium sulfhydrate | 0.45 mole, 38.5 g | [Na+].[SH-]
solvent | water | 110 ml | O | H2O
solvent | water | 1 l | O | H2O
product | 1-(3,4-diaminophenyl)-1-phenylethylene | 83% yield | NC=1C=C(C=CC1N)C(=C)C1=CC=CC=C1 | C14H14N2
